US03988339
8-Chloro-7-hydroxy-4-methylisoquinoline (0.04 mole) and dichlorotriphenylphosphorane (0.04 mole) are heated to 240° C. under a nitrogen atmosphere. After 4 hours, the mixture is allowed to cool and is partitioned between chloroform and concentrated hydrochloric acid. The acidic extract is washed with chloroform, basified and extracted with chloroform. The chloroform extract is washed with water, dried over sodium sulfate and evaporated to yield 7,8-dichloro-4-methylisoquinoline. The product is purified by chromatography on silica gel eluted with chloroform and finally by precipitation of the hydrochloride from ethanol-ether.

reactant | 8-Chloro-7-hydroxy-4-methylisoquinoline | 0.04 mole | ClC=1C(=CC=C2C(=CN=CC12)C)O | C10H8ClNO
reactant | dichlorotriphenylphosphorane | 0.04 mole | ClP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15Cl2P
product | 7,8-dichloro-4-methylisoquinoline | ClC1=CC=C2C(=CN=CC2=C1Cl)C | C10H7Cl2N
